US08212041B2
3-((7-Methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxylic acid (0.047 g, 0.13 mmol), cyclopropanamine (0.011 ml, 0.16 mmol), 1-hydroxy-7-azabenzotriazole (0.018 g, 0.13 mmol), and N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride, (0.039 g, 0.20 mmol) were added to a reaction flask then suspended in DMF (1 mL). N-Ethyldiisopropylamine (0.070 ml, 0.40 mmol) was added to the reaction mixture. The clear reaction mixture was stirred at 20° C. overnight. The reaction mixture was concentrated under vacuum then triturated with water. The solid was collected on a glass frit, washing with water. The sample was purified by preparative TLC eluting with 8% 7N ammonia in methanol/dichloromethane to afford N-cyclopropyl-3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamide (0.023 g, 44% yield) as a tan solid.

reactant | 3-((7-Methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxylic acid | 0.13 mmol, 0.047 g | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C(=O)O | C18H14N4O4
reactant | cyclopropanamine | 0.16 mmol, 0.011 ml | C1(CC1)N | C3H7N
reactant | 1-hydroxy-7-azabenzotriazole | 0.13 mmol, 0.018 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.20 mmol, 0.039 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-Ethyldiisopropylamine | 0.40 mmol, 0.070 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-cyclopropyl-3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamide | 0.023 g, 44% yield | C1(CC1)NC(=O)C=1C=CC=2N(C1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C21H19N5O3
